US07250522B2
Preparation of 2-(4-acetylbenzyl)phenol
Next, 4-(2-hydroxybenzyl)-N-methoxy-N-methylbenzamide (250 mg, 0.921 mmol) was dissolved in tetrahydrofuran (10 mL), followed by addition of methylmagnesium bromide (12% in THF, 2.8 mL) at −20° C. After 15 minutes, a second addition of methylmagnesium bromide (12% in THF, 2.5 mL) was made, followed by a third addition of methylmagnesium bromide (12% in THF, 2.0 mL). After 10 minutes, saturated aqueous ammonium chloride was added to the reaction mixture, which was then extracted twice with ethyl acetate. The combined organic phases were washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. After the solvent was concentrated, the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to give the titled compound (110 mg, 53%) as a colorless powder.

reactant | 4-(2-hydroxybenzyl)-N-methoxy-N-methylbenzamide | 0.921 mmol, 250 mg | OC1=C(CC2=CC=C(C(=O)N(C)OC)C=C2)C=CC=C1 | C16H17NO3
reactant | methylmagnesium bromide | 2.8 mL | C[Mg]Br
reactant | methylmagnesium bromide | 2.5 mL | C[Mg]Br
reactant | methylmagnesium bromide | 2.0 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(4-acetylbenzyl)phenol | 110 mg, 53% | C(C)(=O)C1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C15H14O2
